US04038396
A mixture of 700 mg. of 2-(2-nitrophenyl)oxazolo[ 5,4-b]pyridine in 50 ml. of ethanol was hydrogenated over 150 mg. of 5% palladium on carbon catalyst. The catalyst was removed by filtration and the solvent was concentrated to dryness. The residue was recrystallized from chloroform-petroleum ether to give 2-(2-aminophenyl)oxazolo[ 5,4-b]pyridine, m.p. 142°-144° C.

reactant | 2-(2-nitrophenyl)oxazolo[ 5,4-b]pyridine | [N+](=O)([O-])C1=C(C=CC=C1)C=1OC2=NC=CC=C2N1 | C12H7N3O3
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-aminophenyl)oxazolo[ 5,4-b]pyridine | NC1=C(C=CC=C1)C=1OC2=NC=CC=C2N1 | C12H9N3O
